Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Benadryl overdose
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old ___ woman with no 
significant past medical history presenting to the ED after 
suspected intentional overdose of Benadryl. Per family, patient 
had returned from work upset and was expressing sorrow and 
apologizing to her family following an argument with her 
husband. The argument was actually with her friend per the 
patient. Mom noted she was crying in the shower, and locked 
herself in her room. Around 9:40pm on ___ she emerged from the 
room and was laughing, stating she had ingested 3 bottles of an 
allergy medicine. 10 minutes later she started to vomit and was 
becoming drowsy. She was brought to the ED by her mother who 
called her cousin to help carry her. They also brought in the 
pill bottle of generic Benadryl 25mg; of the 600 pills, 469 
remained in bottle.  She takes no other medication.

In the ED, initial VS were 98.0 ___ 20 99% RA 
Exam in the ED was significant for ___ Coma Scale 15 but 
somnolent. Pupils 3mm bilaterally and minimally responsive.
Labs showed a white count of 11.7 and bicarb of 21. 
Imaging showed no acute intracranial abnormality on non-contrast 
CT. 
The patient was given physostigmine, after which she acutely 
improved in mental status and had to void over 200cc. She 
continued to void during her stay.  

Transfer VS were 99.3 91 134/83 16 98%RA. 
Psychiatry and Toxicology were consulted.  
Decision was made to admit to medicine for further management.
  
On arrival to the floor, patient reports feeling back to her 
baseline. She had ingested a handful of Benadryl at 10pm last 
night and felt dizzy like the room was spinning about 10 minutes 
later. She does not have a good recollection of the past day 
until 6pm today. She felt drowsy, dizzy, and like she wanted to 
lay down during this time but did not feel confused as to the 
location or date. The patient states that she does not remember 
exactly why she took the Benadryl or what the argument with her 
husband was, but she remembers feeling very sad and like she had 
an emotional breakdown. She states that this happened one other 
time in the past many years ago in ___. She wanted to use a 
knife to cut her wrist, but her mother stopped her. At baseline, 
she feels sad and states that she has felt this way for years. 
She has not had suicidal ideation other then these 2 episodes, 
however. She no longer has suicidal ideation and is glad that 
she has returned to her baseline state. She feels that her face 
is red with small bumps, which is not usually the case. She 
denies feeling warm or diaphoretic. Last night, she tried to use 
the bathroom but was unable to. Today, she has been urinating 
normally since 6pm. Her last bowel movement was yesterday 
morning. Her mouth feels very dry and she has been drinking 
water for the last several hours. She has had double vision 
since the ingestion and continues to have double vision if she 
tries to read.

REVIEW OF SYSTEMS:  
(+) Double vision, depression
(-) Anxiety, fever, chills, night sweats, headache, SOB, chest 
pain, abdominal pain, diarrhea, constipation, urinary retention, 
or urinary incontinence
 
Past Medical History:
Depression
 
Social History:
___
Family History:
Hypertension in her mother and dementia in her maternal 
grandmother.
 
Physical Exam:
ADMISSION EXAM:
GENERAL: NAD, comfortable, laying in bed
HEENT: NCAT, EOMI, PERRL 5mm to 3mm bilaterally, anicteric 
sclera, pink conjunctiva, MMM, good dentition  
NECK: Non-tender supple neck, no LAD, non-elevated JVD  
CARDIAC: RRR, normal S1/S2. No murmurs, gallops, or rubs.  
LUNGS: CTAB. No wheezes, crackles, or rhonchi. Breathing 
comfortably without use of accessory muscles.  
ABDOMEN: Soft, non-tender, non-distended. Positive BS. No 
rebound/guarding. No hepatosplenomegaly appreciated. 
EXTREMITIES: Warm and well perfused. No cyanosis, clubbing or 
edema. 
PULSES: 2+ DP and radial pulses bilaterally  
NEURO: CN II-XII grossly intact. Moving all 4 extremities 
equally.  
SKIN: No rashes or bruises. 

DISCHARGE EXAM:
VS - 98.8 (Tc and Tmax) 114/65 (107-121/65-89) 74 (70-86) 16 
(___) 97%RA (97-99%RA)
GENERAL: NAD, comfortable, laying in bed
HEENT: EOMI, PERRL, pupils non-dilated, MMM  
NECK: Non-tender supple neck, no LAD, non-elevated JVD  
CARDIAC: RRR, normal S1/S2. No murmurs, gallops, or rubs.  
LUNGS: CTAB. No wheezes, crackles, or rhonchi. Breathing 
comfortably without use of accessory muscles.  
ABDOMEN: Soft, non-tender, non-distended. Positive BS. No 
rebound/guarding. No hepatosplenomegaly appreciated. 
EXTREMITIES: Warm and well perfused. No cyanosis, clubbing or 
edema. 2+ DP pulses bilaterally  
NEURO: AOx3. CN II-XII grossly intact. Moving all 4 extremities 
equally. 
SKIN: No rashes or bruises. 
 
Pertinent Results:
ADMISSION LABS:
___ 10:50PM BLOOD WBC-11.7* RBC-4.23 Hgb-13.2 Hct-38.1 
MCV-90 MCH-31.2 MCHC-34.6 RDW-12.1 RDWSD-39.7 Plt ___
___ 10:50PM BLOOD Neuts-80.6* Lymphs-14.2* Monos-3.7* 
Eos-0.6* Baso-0.6 Im ___ AbsNeut-9.42* AbsLymp-1.66 
AbsMono-0.43 AbsEos-0.07 AbsBaso-0.07
___ 10:50PM BLOOD Glucose-95 UreaN-13 Creat-0.7 Na-139 
K-3.4 Cl-102 HCO3-21* AnGap-19
___ 10:50PM BLOOD ALT-15 AST-23 AlkPhos-38 TotBili-0.3
___ 10:50PM BLOOD Albumin-4.7 Calcium-9.8 Phos-3.1 Mg-2.0
___ 10:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE EXAM:
___ 07:30AM BLOOD WBC-10.1* RBC-4.45 Hgb-13.8 Hct-41.4 
MCV-93 MCH-31.0 MCHC-33.3 RDW-12.5 RDWSD-42.6 Plt ___
___ 07:30AM BLOOD Glucose-63* UreaN-23* Creat-0.8 Na-137 
K-3.9 Cl-103 HCO3-22 AnGap-16
___ 07:30AM BLOOD Calcium-9.8 Phos-3.9 Mg-2.3
 
Brief Hospital Course:
Ms. ___ is a ___ year old ___ woman with no 
significant past medical history presenting to the ED after 
taking an unknown number of Benadryl in an attempt to kill 
herself following an argument with her friend.

#Anticholinergic delirium: Caused by intentional Benadryl 
overdose of unknown amount (one handful). Patient presented with 
symptoms consistent with anticholinergic toxicity including 
dilated pupils and urinary retention that improved with 
physostigmine. QRS was 95. QTc was initially prolonged at 
464/509 (___) but was 400 on repeat. She was placed on 
a ___ in which she cannot leave AMA. Psychiatry was 
consulted. 

#Suicide attempt: Patient took unknown number of Benadryl (one 
handful of 25mg) in an attempt to kill herself following an 
argument with her friend. Patient expresses relief that she is 
awake and was unsuccessful with this attempt. She does report 
one prior suicide attempt in ___ in ___ by turning on the gas 
oven. On a separate occasion she reported only one prior attempt 
___ years ago when she attempted to cut her wrists with a knife 
but her mom stopped her. She reports feeling sad at baseline and 
expresses a desire to take medication for her depression if it 
might help. She denies anxiety or feeling ups and downs in her 
depression. Per psychiatry, she continues to intermittently be 
glad she is alive or wish she had died. Given her continued 
intermittent suicidal ideation she will need psychiatric 
admission once medically cleared, which she agrees with per 
psych.

===========================
Transitional issues:
-Ongoing psychiatric care 

CODE: Full (confirmed) 
EMERGENCY CONTACT HCP: ___ (husband) ___ 
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Intentional benadryl overdose
Anticholinergic delerium

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were seen at ___ for your intentional Benadryl overdose. 
You were treated with an antidote in the emergency room and you 
felt better from the medication effects. Nonetheless, the 
underlying cause for your overdose is your depression. We feel 
that it would be safest for you to have further treatment with 
the psychiatric service. We have arranged for you to undergo 
further psychiatric treatment.

We wish you all the best,

Your ___ team
 
Followup Instructions:
___